US07700782B2
ii) [2-(4-Benzylcarbamoylphenyl)ethyl]carbamic acid tert-butyl ester
4-(2-tert-Butoxycarbonylaminoethyl)benzoic acid (0.307 g) was dissolved in methanol (5 mL) and treated with diethylisopropylamine (0.605 mL) and benzylamine (0.379 mL). The mixture was cooled (0° C.) then HATU (1.32 g) was added in portions. The reaction mixture was stirred for 48 h at room temperature, then partially concentrated in vacuo and partitioned between 2M aqueous hydrochloric acid and ethyl acetate. The organic layer was washed with further aqueous hydrochloric acid, saturated aqueous sodium bicarbonate, water, saturated aqueous sodium chloride, then dried (Na2SO4) and concentrated to afford a colourless oil (>0.41 g) which was used in the next step without further purification.

reactant | 4-(2-tert-Butoxycarbonylaminoethyl)benzoic acid | 0.307 g | C(C)(C)(C)OC(=O)NCCC1=CC=C(C(=O)O)C=C1 | C14H19NO4
reactant | diethylisopropylamine | 0.605 mL | C(C)N(C(C)C)CC | C7H17N
reactant | benzylamine | 0.379 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HATU | 1.32 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methanol | 5 mL | CO | CH4O
product | [2-(4-Benzylcarbamoylphenyl)ethyl]carbamic acid tert-butyl ester | >0.41 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)C(NCC1=CC=CC=C1)=O)=O | C21H26N2O3
